US06248740B1
Production of sodium 2-[6-[4-[4-(diphenylmethoxy) piperidino]butyl]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate
631 mg of ethyl 2-[6-[4-[4-(diphenylmethoxy) piperidino]butyl]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate dihydrochloride was dissolved in 4 ml of ethanol; 5.5 ml of a 1 N aqueous solution of sodium hydroxide was added, followed by thermal refluxing for 3 hours. After cooling, the mixture was concentrated under reduced pressure; the residue was diluted with water and ajusted to pH 5.5 by the addition of 1 N hydrochloric acid. Acetone was added to cause crystallization; the crystal precipitated was washed with water-acetone (2:1) and dried to yield 345 mg of the title compound.

reactant | ethyl 2-[6-[4-[4-(diphenylmethoxy) piperidino]butyl]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate dihydrochloride | 631 mg | Cl.Cl.C1(=CC=CC=C1)C(OC1CCN(CC1)CCCCC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C)C2=CC=CC=C2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | sodium 2-[6-[4-[4-(diphenylmethoxy) piperidino]butyl]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 345 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCCC=1C=CC=2N(N1)C=C(N2)C(C(=O)[O-])(C)C)C2=CC=CC=C2.[Na+] | InChI=1S/C32H38N4O3.Na/c1-32(2,31(37)38)28-23-36-29(33-28)17-16-26(34-36)15-9-10-20-35-21-18-27(19-22-35)39-30(24-11-5-3-6-12-24)25-13-7-4-8-14-25;/h3-8,11-14,16-17,23,27,30H,9-10,15,18-22H2,1-2H3,(H,37,38);/q;+1/p-1
